US09422271B2
5-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-5-ethynyl-6-methylpyrimidin-2-yl)thiophene-2-sulfonamide (Compound 267)
BCl3 (1 M in CH2Cl2, 2.5 mL, 2.5 mmol, 5 eq) was added to a stirred solution of N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-ethynyl-6-methyl pyrimidin-2-yl)thiophene-2-sulfonamide (230 mg, 0.50 mmol, 1.0 eq) in CH2Cl2 (10 mL) at rt under nitrogen. The reaction mixture was stirred for 30 min and then quenched with aq. NaHCO3 in ice bath. The reaction mixture was extracted with ethyl acetate and washed with water, brine, dried and evaporated. The crude product was crystallized with THF/isopropanol to afford the title compound 5-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-5-ethynyl-6-methylpyrimidin-2-yl)thiophene-2-sulfonamide (Compound 267) (175.0 mg, 87.5%). LC-MS (m/z)=401.1 [M+H]+. δ (400 MHz, DMSO-d6): 0.81-0.85 (m, 2H), 1.03-1.07 (m, 2H), 1.99-2.04 (m, 1H), 2.55 (s, 3H), 5.17 (s, 1H), 6.49 (s, 1H), 7.61 (d, J=3.6 Hz, 1H), 7.88 (s, 2H), 7.91 (d, J=3.6 Hz, 1H), 9.21 (s, 1H)

reactant | BCl3 | 2.5 mmol, 1 M, 2.5 mL, 5 eq | B(Cl)(Cl)Cl | BCl3
reactant | N-tert-butyl-5-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-5-ethynyl-6-methyl pyrimidin-2-yl)thiophene-2-sulfonamide | 0.50 mmol, 230 mg, 1.0 eq | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C1=NC(=C(C(=N1)NC1=NNC(=C1)C1CC1)C#C)C | C21H24N6O2S2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-(3-cyclopropyl-1H-pyrazol-5-ylamino)-5-ethynyl-6-methylpyrimidin-2-yl)thiophene-2-sulfonamide | 175.0 mg, 87.5% | C1(CC1)C1=NNC(=C1)NC1=NC(=NC(=C1C#C)C)C1=CC=C(S1)S(=O)(=O)N | C17H16N6O2S2
